US06274632B1
2-(4,4-difluorobut-3-enylthio)benzthiazole (prepared by the method described in United Kingdom Patent Application GB2270689A, 8.25 g) in dichloromethane ( 15 cm3) was added to a rapidly stirred mixture of monomagnesium peroxyphthalic acid hexahydrate (25.7 g, 70-80% technical grade) in water (25 cm3). The mixture was stirred for 2 days, diluted with dichloromethane and water, the organic phase separated, washed with aqueous sodium carbonate, water and dried (magnesium sulfate). The solvent was evaporated under reduced pressure to give 2-(4,4-difluorobut-3-enylsulfonyl )benzthiazole as a colourless oil, 4.9 g.

reactant | 2-(4,4-difluorobut-3-enylthio)benzthiazole | FC(=CCCSC=1SC2=C(N1)C=CC=C2)F | C11H9F2NS2
reactant | monomagnesium peroxyphthalic acid hexahydrate | 25.7 g | O.O.O.O.O.O.C(C=1C(C(=O)O)=CC=CC1)(=O)OO.[Mg]
solvent | dichloromethane | 15 cm3 | ClCCl | CH2Cl2
solvent | water | 25 cm3 | O | H2O
product | 2-(4,4-difluorobut-3-enylsulfonyl )benzthiazole | FC(=CCCS(=O)(=O)C=1SC2=C(N1)C=CC=C2)F | C11H9F2NO2S2
